US06677348B2
Using the general method of Example 1 Part A 2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol (1.39 g, 5.123 mmol) was reacted with propargyl bromide (80% in toluene, 1.7 mL, 15.37 mmol) to provide 1.6 g of 2-(ethoxymethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as an oil.

reactant | 2-[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethanol | 5.123 mmol, 1.39 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCO | C15H17N3O2
reactant | propargyl bromide | 15.37 mmol, 1.7 mL | C(C#C)Br | C3H3Br
product | 2-(ethoxymethyl)-1-[2-(prop-2-ynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline | 1.6 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCC#C | C18H19N3O2
